US07453010B2
10.3: Ethyl trans-2-{4-[4-({(2S)-3-[3-(butylsulfinyl)-4-hydroxyphenoxy]-2-hydroxypropyl}amino)cyclohexyl]phenoxy}-2,2-dimethylacetate
A solution of 0.720 g of ethyl trans-2-{4-[4-({(2S)-3-[4-(benzyloxy)-3-(butylsulfinyl)phenoxy]-2-hydroxypropyl}amino)cyclohexyl]phenoxy}-2,2-dimethylacetate (1.08 mmol) in trifluoroacetic acid (12 ml) is heated at 60° C. for 3 hours. The solvent is evaporated and the residue is treated with a sodium bicarbonate solution and ethyl acetate. The organic phase is separated, dried, filtered and evaporated under vacuum. The product thus obtained is purified by flash chromatography, elution being carried out with a methylene chloride/methanol/aqueous ammonia (9/1/0.1) mixture. The title product is obtained in the form of a solid (0.31 g, 50%).

reactant | ethyl trans-2-{4-[4-({(2S)-3-[4-(benzyloxy)-3-(butylsulfinyl)phenoxy]-2-hydroxypropyl}amino)cyclohexyl]phenoxy}-2,2-dimethylacetate | 1.08 mmol, 0.720 g | C(C1=CC=CC=C1)OC1=C(C=C(OC[C@H](CN[C@@H]2CC[C@H](CC2)C2=CC=C(OC(C(=O)OCC)(C)C)C=C2)O)C=C1)S(=O)CCCC | C38H51NO7S
solvent | trifluoroacetic acid | 12 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Ethyl trans-2-{4-[4-({(2S)-3-[3-(butylsulfinyl)-4-hydroxyphenoxy]-2-hydroxypropyl}amino)cyclohexyl]phenoxy}-2,2-dimethylacetate | C(CCC)S(=O)C=1C=C(OC[C@H](CN[C@@H]2CC[C@H](CC2)C2=CC=C(OC(C(=O)OCC)(C)C)C=C2)O)C=CC1O | C31H45NO7S
